US07553837B2
Production of 6-nitro-2-methoxymethyl-2,5,7,8-tetramethyl (2H) chromene
To 10.1 g of 6-nitro-4-hydroxy-2-methoxymethyl-2,5,7,8-tetramethylchroman, 200 ml of benzene was added and 1.0 g of p-toluenesulfonic acid was added, followed by heating at reflux for 2 hours using a Dean-Stark apparatus. The reaction solution was poured into water and then extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution, washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, 9.4 g of the objective oily compound was obtained.

reactant | 6-nitro-4-hydroxy-2-methoxymethyl-2,5,7,8-tetramethylchroman | 10.1 g | [N+](=O)([O-])C=1C(=C2C(CC(OC2=C(C1C)C)(C)COC)O)C | C15H21NO5
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 6-nitro-2-methoxymethyl-2,5,7,8-tetramethyl (2H) chromene | 9.4 g | [N+](=O)([O-])C=1C(=C2C=CC(OC2=C(C1C)C)(C)COC)C | C15H19NO4
